US07276516B2
Add to a stirring mixture of 4-(3-phenyl-indole-1-sulfonyl)-benzoic acid (5.0 g, 13.25 mmol) and 2-aminomethyl-5-fluoropyridine (dihydrochloride) (2.9 g, 14.57 mmol) in anhydrous methylene chloride (60 mL), EDCI (3.8 g, 19.82 mmol) and 4-DMAP (6.0 g, 49.10 mmol). Stir the resulting solution overnight at room temperature, concentrate to a paste, and partition between ethyl acetate (100 mL), water (100 mL), and brine (100 mL). Dry the organic layer over sodium sulfate and concentrate to an oil. Dissolve the oil in methylene chloride and add to a biotage 65 cartridge. Elute with 1:1 ethyl acetate/hexanes to provide isolation of the pure 3 (N-(5-Fluoro-pyridin-2-ylmethyl)-4-(3-phenyl-indole-1-sulfonyl)-benzamide as a solid, 5.7 g (89%): 1H NMR(DMSO-d6) δ 9.32 (t, J=5.9 Hz, 1H), 8.46 (d, J=2.9 Hz, 1H), 8.20 (d, J=8.3 Hz, 2H), 8.12 (s, 1H), 8.03 (m, 3H), 7.82 (d, J=7.8 Hz, 1H), 7.72 (d, J=6.8 Hz, 2H), 7.62 (dt, J=2.9, 8.8 Hz, 1H), 7.50(t, J=7.3 Hz, 2H), 7.39 (m, 4H), 4.50 (d, J=5.9 Hz, 2H); MS(ESI) m/z 486 (m+H).

reactant | 4-(3-phenyl-indole-1-sulfonyl)-benzoic acid | 13.25 mmol, 5.0 g | C1(=CC=CC=C1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C21H15NO4S
reactant | 2-aminomethyl-5-fluoropyridine | 14.57 mmol, 2.9 g | NCC1=NC=C(C=C1)F | C6H7FN2
reactant | EDCI | 19.82 mmol, 3.8 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-DMAP | 49.10 mmol, 6.0 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(5-Fluoro-pyridin-2-ylmethyl)-4-(3-phenyl-indole-1-sulfonyl)-benzamide | FC=1C=CC(=NC1)CNC(C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1=CC=CC=C1)=O | C27H20FN3O3S
